US09120825B2
In an argon atmosphere, 5.50 g (23.6 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 10 mL of hexane and after adding a lithium butyl(methyl)amide solution (prepared by mixing 14.2 mL of 1.67 mol/L butyllithium hexane solution, 15 mL of tetrahydrofuran and 2.07 g of N-butyl-N-methylamine and stirring the mixture at room temperature for 1 hour), the mixture was stirred at room temperature for 20 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 109° C./3.3×102 Pa) to obtain 1,3-di-tert-butyl-2-butylmethylamino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NBuMe) as a colorless liquid (yielded amount: 5.67 g, yield: 85%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 23.6 mmol, 5.50 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | lithium butyl(methyl)amide | C(CCC)[N-]C.[Li+]
reactant | butyllithium hexane | 1.67 mol/L, 14.2 mL | CCCCCC.C(CCC)[Li]
reactant | N-butyl-N-methylamine | 2.07 g | C(CCC)NC | C5H13N
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1,3-di-tert-butyl-2-butylmethylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 85% | C(C)(C)(C)N1[Si](N(C=C1)C(C)(C)C)(CCCC)NC | C15H33N3Si
